US07452909B2
3-(2-Methyl-1-pyridin-3-ylmethyl-1H-imidazol-4-ylethynyl)-benzonitrile
The title compound, MS: m/e=299.2 (M+H30), was prepared in accordance with the general method of example 1 from 3-(2-methyl-1H-imidazol-4-ylethynyl)-benzonitrile and 3-(bromomethyl)pyridine hydrobromide.

reactant | 3-(2-methyl-1H-imidazol-4-ylethynyl)-benzonitrile | CC=1NC=C(N1)C#CC=1C=C(C#N)C=CC1 | C13H9N3
reactant | 3-(bromomethyl)pyridine hydrobromide | Br.BrCC=1C=NC=CC1
product | 3-(2-Methyl-1-pyridin-3-ylmethyl-1H-imidazol-4-ylethynyl)-benzonitrile | CC=1N(C=C(N1)C#CC=1C=C(C#N)C=CC1)CC=1C=NC=CC1 | C19H14N4
